US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-hydroxybenzyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine
In dichloromethane (10 ml), 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxybenzyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (195 mg) was dissolved, followed by the dropwise addition of a boron tribromide-dichloromethane solution (1.0M, 2.08 ml) at −78° C. The reaction mixture was heated to room temperature and stirred overnight. To the reaction mixture, methanol (2 ml), sodium carbonate (200 mg) and water (3 ml) were added to extract the organic layer, followed by drying over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The solid thus precipitated was collected by filtration while being washed with 1N hydrochloric acid, whereby the title compound (50 mg, 24%) was obtained as a pale yellow solid.

reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-methoxybenzyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 195 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NCC1=C(C=CC=C1)OC)=O
reactant | boron tribromide dichloromethane | 1.0M, 2.08 ml | B(Br)(Br)Br.ClCCl
reactant | methanol | 2 ml | CO | CH4O
reactant | sodium carbonate | 200 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 3 ml | O | H2O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[N-(2-hydroxybenzyl)]carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NCC1=C(C=CC=C1)O)=O | C30H30ClN5O5S2
